US07148174B2
(trans-N,N′-Bispyridin-2-ylmethylenecyclohexane-1,2-diamine)-iron(II) chloride
In a baked Schlenk tube, 1.0 g (3.4 mmol) of trans-N,N′-bispyridin-2-ylmethylenecyclohexane-1,2-diamine are dissolved in 40 ml of THF and admixed with 431 mg (3.4 mmol) of iron(II) chloride (anhydrous). After 0.5 h, the solution becomes dark blue. After stirring at room temperature for another 2 hours, the solvent is removed under reduced pressure and the residue is stirred with 10 ml of heptane. Filtration through a G3 frit gives the product as a dark blue solid in a yield of 1.41 g (3.36 mmol, 99%).

reactant | trans-N,N′-bispyridin-2-ylmethylenecyclohexane-1,2-diamine | 3.4 mmol, 1.0 g | N1=C(C=CC=C1)C=N[C@H]1[C@@H](CCCC1)N=CC1=NC=CC=C1 | C18H20N4
reactant | iron(II) chloride | 3.4 mmol, 431 mg | [Fe](Cl)Cl
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (trans-N,N′-Bispyridin-2-ylmethylenecyclohexane-1,2-diamine)-iron(II) chloride | [Fe](Cl)Cl.N1=C(C=CC=C1)C=N[C@H]1[C@@H](CCCC1)N=CC1=NC=CC=C1 | InChI=1S/C18H20N4.2ClH.Fe/c1-2-10-18(22-14-16-8-4-6-12-20-16)17(9-1)21-13-15-7-3-5-11-19-15;;;/h3-8,11-14,17-18H,1-2,9-10H2;2*1H;/q;;;+2/p-2/t17-,18-;;;/m1.../s1
